US08686024B2
Synthesis of 1-benzylindolin-5-yl 2-naphthylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) using the same procedure employed for Example 2 (2), but with 2-naphthylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (14.4 mg, 55%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 2-naphthylisocyanate | C1=C(C=CC2=CC=CC=C12)N=C=O | C11H7NO
product | 1-benzylindolin-5-yl 2-naphthylcarbamate | C1=C(C=CC2=CC=CC=C12)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C26H22N2O2
